US03950333
Reacting 2-[(2-aminoethyl)thiomethyl]benzimidazole with S-methyl-N-nitroisothiourea by the procedure of Example 2(ii) gives N-[2-(2-benzimidazolylmethylthio)ethyl]-N'-nitroguanidine. Treatment with hydrochloric acid gives the hydrochloride salt.

reactant | 2-[(2-aminoethyl)thiomethyl]benzimidazole | NCCSCC=1NC2=C(N1)C=CC=C2 | C10H13N3S
reactant | S-methyl-N-nitroisothiourea | CSC(N[N+](=O)[O-])=N | C2H5N3O2S
product | N-[2-(2-benzimidazolylmethylthio)ethyl]-N'-nitroguanidine | N1=C(NC2=C1C=CC=C2)CSCCNC(=N)N[N+](=O)[O-] | C11H14N6O2S
